US06528525B1
(i) Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-(phenoxyethyl)propionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(2-phenoxyethyl)propionate (538 mg) and palladium on carbon (5%, 500 mg) and the reaction mixture was treated to afford the title compound (476 mg) as a syrup.

reactant | ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(2-phenoxyethyl)propionate | 538 mg | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)CCOC1=CC=CC=C1 | C21H25N3O4
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-(phenoxyethyl)propionate | 476 mg | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)CCOC1=CC=CC=C1 | C21H27NO4
